US09340556B2
To a solution of 2-fluoro-3,4-dimethoxyaniline (39 g, 228 mmol) in Ethanol (200 mL) was added diethyl 2-(ethoxymethylene)malonate (45.7 mL, 228 mmol), and the resulting mixture was heated at 80° C. for 1 h. LCMS indicated completion of the reaction. The mixture was concentrated in vacuo to remove ethanol and then washed with hexane to afford diethyl 2-(((2-fluoro-3,4-dimethoxyphenyl)amino)methylene)malonate (72 g, 211 mmol, 93% yield) as a brown solid. LCMS (M+H)+: 342.1.

reactant | 2-fluoro-3,4-dimethoxyaniline | 228 mmol, 39 g | FC1=C(N)C=CC(=C1OC)OC | C8H10FNO2
reactant | diethyl 2-(ethoxymethylene)malonate | 228 mmol, 45.7 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | Ethanol | 200 mL | C(C)O | C2H6O
product | diethyl 2-(((2-fluoro-3,4-dimethoxyphenyl)amino)methylene)malonate | 211 mmol, 72 g, 93% yield | FC1=C(C=CC(=C1OC)OC)NC=C(C(=O)OCC)C(=O)OCC | C16H20FNO6
